US09334269B2
To a solution of tert-butyl 3-(2,4-dichlorophenoxy)azetidine-1-carboxylate (1.2 g, 3.78 mmol) in CH2Cl2 (10 mL) was added trifluoroacetic acid (TFA) (7 mL) and the reaction mixture was stirred at RT for 2 h. The mixture was concentrated under reduced pressure and filtered, washing with chloroform followed by diethyl ether to obtain 3-(2,4-dichlorophenoxy) azetidine (0.800 g, 100%) as a TFA salt.

reactant | tert-butyl 3-(2,4-dichlorophenoxy)azetidine-1-carboxylate | 3.78 mmol, 1.2 g | ClC1=C(OC2CN(C2)C(=O)OC(C)(C)C)C=CC(=C1)Cl | C14H17Cl2NO3
reactant | trifluoroacetic acid | 7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(2,4-dichlorophenoxy) azetidine | 0.800 g, 100% | ClC1=C(OC2CNC2)C=CC(=C1)Cl | C9H9Cl2NO
